US07645752B2
To a solution of 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-ol (1.006 g, 3.19 mmol) in anhydrous acetonitrile (25 mL) at room temperature under nitrogen was added pyridine (0.65 mL, 7.97 mmol) followed by p-toluenesulfonyl chloride, and the reaction mixture stirred for 11 days. The reaction mixture was then concentrated to a small volume in vacuo, and the mixture partitioned between ethyl acetate (100 mL) and 1 N aqueous HCl (100 mL). The organic phase was separated, washed with water (2×100 mL) and brine (200 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford a yellow syrup. Purification by flash chromatography (0 to 40% ethyl acetate/hexane) afforded 3-phenylsulfonyl-4-(3-chloro-propyl)-1H-indole as a colorless foam (0.51 g, 48%). MS (ES+) m/z 334 (M+H). Further elution afforded 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propyl 4-methylbenzenesulfonate as a white foam (0.48 g, 32%). MS (ES+) m/z 469.7 (M+H).

reactant | 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-ol | 3.19 mmol, 1.006 g | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=CC(=C12)CCCO | C17H17NO3S
reactant | pyridine | 7.97 mmol, 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-phenylsulfonyl-4-(3-chloro-propyl)-1H-indole | 0.51 g, 48% | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=CC(=C12)CCCCl | C17H16ClNO2S
